US05550121
(2S,4R)-N-tert-Butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[1-hydroxy-2-(N-methylcarbamoyl)ethyl]pyrrolidine
Under an argon atmosphere, (1,5-cyclooctadiene)ruthenium(II) chloride polymer (10 mg, 3.6×10-2 mmol), (S)-(-)-bis(diphenylphosphino)-1,1'-binaphthyl (24 mg, 3.6×10-2 mmol), triethylamine (0.1 ml, 6.5×10-1 mmol) and toluene (5 ml) were stirred in a sealed tube at 140° C. for 6 h. The solvent was removed in vacuo from the obtained red solution. To the residue were added a solution of (2S,4R)-4-hydroxy-2-[2-(N-methylcarbamoyl)-1-oxoethyl]pyrrolidine monohydrochloride (660 mg, 3.0 mmol) in methanol (10 ml) and tetrahydrofuran (5 ml). The mixture was stirred under a hydrogen pressure of 4 kg/cm2 at 80° C. for 6 h. Then, the reaction solution was concentrated in vacuo. Dioxane (20 ml) and water (10 ml) were added to the residue, and 1N aqueous sodium hydroxide (5 ml) and di-tert-butyl dicarbonate (930 mg, 4.2 mmol) were added thereto at 0° C. The mixture was stirred overnight at room temperature. Then, the reaction solution was concentrated. The residue was extracted with chloroform (50 ml×5). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The obtained oil (930 mg) was dissolved in N,N-dimethylformamide (10 ml), and chloro-tert-butyldimethylsilane (520 mg, 3.4 mmol) and imidazole (240 mg, 3.4 mmol) were added thereto at 0° C. The mixture was stirred at room temperature for 4 h. Then, ethyl acetate (100 ml) was added to the reaction solution. The mixture was washed successively with dilute hydrochloric acid, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated in vacuo. The obtained oil was subjected to silica gel column chromatography (Wakogel™ C-300, heptane-ethyl acetate) to give the title compound [602 mg, yield: 60%; by high performance liquid column chromatography under the same conditions as in REFERENCE EXAMPLE 43 (R)-isomer (polar compound):(S)-isomer (less polar compound)=149:1].

reactant | triethylamine | 6.5×10-1 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | (2S,4R)-4-hydroxy-2-[2-(N-methylcarbamoyl)-1-oxoethyl]pyrrolidine monohydrochloride | 3.0 mmol, 660 mg | Cl.O[C@@H]1C[C@H](NC1)C(CC(NC)=O)=O
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 4.2 mmol, 930 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | chloro-tert-butyldimethylsilane | 3.4 mmol, 520 mg | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
reactant | imidazole | 3.4 mmol, 240 mg | N1C=NC=C1 | C3H4N2
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | (1,5-cyclooctadiene)ruthenium(II) chloride | 3.6×10-2 mmol, 10 mg | C1/C=C\CC/C=C\C1.Cl[Ru]Cl
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | Dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (2S,4R)-N-tert-Butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[1-hydroxy-2-(N-methylcarbamoyl)ethyl]pyrrolidine | yield: 60% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(CC(NC)=O)O | C19H38N2O5Si
